US06255323B1
4-Chloro-N-(4-(N′-cyano-N″-quinolin-5-yl-guanidinomethyl)-phenyl)-benzenesulfonamide (SBR-11-3210) was synthesized as follows
N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine (50 mg, 0.16 mmol) and 4-chloro-benzenesulfonyl chloride (41 mg, 0.19 mmol) were added to pyridine (1 mL). An exothermic reaction occurred and the suspension became homogeneous. This solution was shaken at room temperature for 12 hours. The reaction mixture was then diluted with ethyl acetate (8 mL) and washed with water (5 mL×3). The organic phase was dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was triturated with diethyl ether to give a solid product in 76% yield. 1H NMR (DMSO-d6, ppm): 10.37 (s, 1H), 9.39 (s, 1H), 8.96 (m, 1H), 8.12 (m, 1H), 8.02 (d, 1H), 7.69 (m, 3H), 7.63 (d, 2H), 7.49 (m, 2H), 7.39 (m, 1H), 7.08 (m, 4H), 4.21 (d, 2H).

reactant | N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine | 0.16 mmol, 50 mg | NC1=CC=C(CNC(=NC2=C3C=CC=NC3=CC=C2)NC#N)C=C1 | C18H16N6
reactant | 4-chloro-benzenesulfonyl chloride | 0.19 mmol, 41 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-N-(4-(N′-cyano-N″-quinolin-5-yl-guanidinomethyl)-phenyl)-benzenesulfonamide | 76% yield | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)CNC(=NC#N)NC1=C2C=CC=NC2=CC=C1 | C24H19ClN6O2S
